US05362480
N-heptyl galactosylamine
β-D-galactose (10 g, 1 eq), heptylamine (7.7 g, 1 eq) and water (2 g, 3 eq) were heated in a reaction flask at 80° C. for about 15 minutes. The sample was filtered and washed as described for the decyl derivative to give an 87% yield.

reactant | β-D-galactose | 10 g, 1 eq | O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C6H12O6
reactant | heptylamine | 7.7 g, 1 eq | C(CCCCCC)N | C7H17N
reactant | water | 2 g, 3 eq | O | H2O
product | N-heptyl galactosylamine | 87% yield | C(CCCCCC)NC1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C13H27NO5
